US04594451
Preparation of 4-(2-bromo-3,3,3-trifluoro-1-propenyl)nitrobenzene
The product was prepared from 4-nitro-benzaldehyde and from 1,1,1-trifluoro-tribromoethane (CF3 --CBr3) by operating according to the process of example 1. The obtained product has:

reactant | 4-nitro-benzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 1,1,1-trifluoro-tribromoethane | FC(C(Br)(Br)Br)(F)F | C2Br3F3
product | 4-(2-bromo-3,3,3-trifluoro-1-propenyl)nitrobenzene | BrC(=CC1=CC=C(C=C1)[N+](=O)[O-])C(F)(F)F | C9H5BrF3NO2
